US07842817B2
1,3-Bis(3,4-difluorobenzyl)-5-bromo-1,3-dihydrobenzoimidazol-2-ylideneamine
1,3-Bis(3,4-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine, prepared by Procedure A, was dissolved in dichloromethane, added bromine (2 eq) and stirred overnight at rt. Saturated aqueous NaHCO3 was added and the mixture extracted with EtOAc. The combined organic phases were dried (MgSO4), filtered, concentrated in vacuo and purified by preparative LCMS to give the title compound as the free base (solid, mp 88-89.5° C.). MS(ES+) m/z 465 ([M+1]+, 100). 1NMR (DMSO-d6) δ 5.05 (s, 4H), 6.08 (br s, 1H), 6.85-6.93 (m, 1H), 6.98-7.23 (m, 4H), 7.35-7.45 (m, 4H).

reactant | 1,3-Bis(3,4-difluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine | FC=1C=C(CN2C(N(C3=C2C=CC=C3)CC3=CC(=C(C=C3)F)F)=N)C=CC1F | C21H15F4N3
reactant | bromine | 2 eq | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,3-Bis(3,4-difluorobenzyl)-5-bromo-1,3-dihydrobenzoimidazol-2-ylideneamine | FC=1C=C(CN2C(N(C3=C2C=CC(=C3)Br)CC3=CC(=C(C=C3)F)F)=N)C=CC1F | C21H14BrF4N3
